US09403798B2
tert-Butyl 4-(4-oxo-4,5-dihydro-1,3,5-triazin-2-yl)piperazine-1-carboxylate
tert-Butyl 4-(6-chloro-4-oxo-4,5-dihydro-1,3,5-triazin-2-yl)piperazine-1-carboxylate (14.2 g, 45.0 mmol) synthesized in Reference Synthesis Example 6 and palladium hydroxide-activated carbon catalyst (142 mg) were used to obtain a crude product of the title compound by synthesis in a similar manner to Reference Synthesis Example 3. The crude product was used in the next reaction as it was.

reactant | tert-Butyl 4-(6-chloro-4-oxo-4,5-dihydro-1,3,5-triazin-2-yl)piperazine-1-carboxylate | 45.0 mmol, 14.2 g | ClC=1NC(N=C(N1)N1CCN(CC1)C(=O)OC(C)(C)C)=O | C12H18ClN5O3
catalyst | palladium hydroxide | 142 mg | [OH-].[Pd+2].[OH-]
product | tert-Butyl 4-(4-oxo-4,5-dihydro-1,3,5-triazin-2-yl)piperazine-1-carboxylate | O=C1N=C(N=CN1)N1CCN(CC1)C(=O)OC(C)(C)C | C12H19N5O3
